US08258144B2
1-(4-(4-(4-(4-aminopiperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone
A solution of benzyl 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-ylcarbamate (370 mg, 0.676 mmol) and Pd—C (10%, 55 mg) in MeOH (12 mL) was hydrogenated under balloon hydrogen for 20 h. It was then filtered through celite. The filtrate was concentrated in vacuo to give the titled compound (239 mg). MS 414.3 (M+H); UV 202.8, 268.8 nm.

reactant | benzyl 1-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperidin-4-ylcarbamate | 0.676 mmol, 370 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCC(CC1)NC(OCC1=CC=CC=C1)=O)F | C29H34FN7O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 12 mL | CO | CH4O
catalyst | Pd—C | 55 mg | [Pd] | Pd
product | 1-(4-(4-(4-(4-aminopiperidin-1-yl)-5-fluoropyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 239 mg | NC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C21H28FN7O
